US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-thiomorpholin-4-yl-piperidin-1-yl)-methanone
The title compound, MS: m/e=503.2 (M+H+), was prepared in accordance with the general method of example 26 from 1-benzyl-3-phenyl-piperidin-4-one, thiomorpholine and 3,5-bistrifluoromethyl-benzoyl chloride.

reactant | 1-benzyl-3-phenyl-piperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=CC=CC=C1 | C18H19NO
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-thiomorpholin-4-yl-piperidin-1-yl)-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCSCC1)C1=CC=CC=C1)(F)F | C24H24F6N2OS
